US07202364B2
To a solution of 2,7-dinitronaphthalene (500 mg, 2.29 mmol) in methanol (5 mL) heated to reflux, is added over 15 minutes, a solution of sodium hydrosulfide (196 mg, 3.44 mmol) in methanol (5 mL) and water (10 mL). The reaction mixture is heated at reflux for 30 minutes and then poured into ice-water and filtered to give an orange solid. After washing the solid with boiling 10% aqueous HCl, the filtrate is basified with solid NaOH and extracted with EtOAc. The organic layer is dried (Na2SO4) and the solvents are evaporated to give 7-nitro-2-aminonaphthalene as a bright orange solid.

reactant | 2,7-dinitronaphthalene | 2.29 mmol, 500 mg | [N+](=O)([O-])C1=CC2=CC(=CC=C2C=C1)[N+](=O)[O-] | C10H6N2O4
reactant | sodium hydrosulfide | 3.44 mmol, 196 mg | [SH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 7-nitro-2-aminonaphthalene | [N+](=O)([O-])C1=CC=C2C=CC(=CC2=C1)N | C10H8N2O2
